US07101891B2
2-[3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidin-1-yl]-N-(3,4,5-trimethoxy-phenyl)-acetamide
Add 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide (50 mg, 0.11 mmol), 2-bromo-N-(3,4,5-trimethoxy-phenyl)-acetamide (38 mg, 0.12 mmol), and tetrahydrofuran (3 mL) to a roundbottom flask. Stir and add potassium iodide (2 mg, 0.01 mmol) and potassium carbonate (34 mg, 0.25 mmol) at room temperature under nitrogen overnight. Concentrate the reaction, partitions between water and 20% isopropanol/chloroform, and separate. Was the organic layer with saturated aqueous sodium bicarbonate solution, brine, dry over magnesium sulfate and concentrate. Purify by flash chromatography on silica gel (eluting with 0–0.5% methanol/chloroform) to give 37.6 mg of the title compound as an orange solid, 62% yield. 1H NMR: consistent with structure. MS (ion spray) 541 (M+).

reactant | 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide | 0.11 mmol, 50 mg | I.ClC=1C=2C=3C(C(N(C2C=CC1)C1CNCCC1)=O)=C(ON3)C
reactant | 2-bromo-N-(3,4,5-trimethoxy-phenyl)-acetamide | 0.12 mmol, 38 mg | BrCC(=O)NC1=CC(=C(C(=C1)OC)OC)OC | C11H14BrNO4
reactant | potassium iodide | 0.01 mmol, 2 mg | [I-].[K+]
reactant | potassium carbonate | 0.25 mmol, 34 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-[3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidin-1-yl]-N-(3,4,5-trimethoxy-phenyl)-acetamide | 37.6 mg, 62% yield | ClC=1C=2C=3C(C(N(C2C=CC1)C1CN(CCC1)CC(=O)NC1=CC(=C(C(=C1)OC)OC)OC)=O)=C(ON3)C | C27H29ClN4O6
